Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Magnesium Citrate
 
Attending: ___.
 
Chief Complaint:
Choledocolithiasis
 
Major Surgical or Invasive Procedure:
___ ERCP, ___ Cholecystectomy
 
History of Present Illness:
___ year old female with crampy ___ epigastric abdominal pain 
that began after waking up from a nap on ___ ___. The pain 
waxed an waned during the day and was associated with copious 
vommitting. It was exacerbated by eating and releived by Zanax 
which the patient took on ___ night. The pain and vomitting 
continued into ___ with similar quality and 
intensity. On ___, the pain lateralized to her 
right side, was of a sharp quality and was associated with 
vomitting. At this point she presented to the ED. She denies 
diarrhea and constipation, although she has not had a bowel 
movement since ___. She also denies fever and chills.
 
Past Medical History:
PMH: Asthma
PSH: Tubal ligation ___, Tonsilectomy ___
 
Social History:
___
Family History:
History of DM in uncle and brother, hx of HTN in brothers, 
mother  

 
___ Results:
___ 
LABS 04:50AM BLOOD WBC-6.7 RBC-4.06* Hgb-11.5* Hct-35.4* MCV-87 
MCH-28.5 MCHC-32.6 RDW-14.9 Plt ___ PTT-27.2 
___ Glucose-55* UreaN-9 Creat-0.6 Na-140 K-3.7 Cl-104 
HCO3-26 AnGap-14 ALT-215* AST-101* AlkPhos-309* TotBili-0.5 
Lipase-19 Calcium-9.8 Phos-4.0 Mg-1.7

___ 
LABS:04:25AM BLOOD WBC-6.1 RBC-4.24 Hgb-11.6* Hct-36.6 MCV-86 
MCH-27.4 MCHC-31.8 RDW-14.5 Plt ___ Glucose-79 UreaN-6 
Creat-0.6 Na-142 K-3.8 Cl-109* HCO3-25 AnGap-12 ALT-332* 
AST-275* AlkPhos-352* Amylase-32 TotBili-0.5
Lipase-16 Calcium-9.7 Phos-3.6 Mg-1.8

___
ABDOMINAL US: FINDINGS:Choledocholithiasis with dilatation of 
the common bile duct to 1 cm. Cholelithiasis without evidence of 
cholecystitis. 
  
CHEST X-RAY (PA & LAT) FINDINGS: No acute intrathoracic process. 
No free air beneath the diaphragms. 

LABS 06:50PM BLOOD WBC-6.2 RBC-4.37 Hgb-12.4 Hct-37.9 MCV-87 
MCH-28.5 MCHC-32.9 RDW-15.0 Plt ___ Neuts-64.8 Lymphs-29.1 
Monos-3.9 Eos-1.2 Baso-1.0
Plt ___ PTT-23.7 ___ Glucose-110* UreaN-8 
Creat-0.7 Na-141 K-3.7 Cl-103 HCO3-27 AnGap-15 ALT-375* AST-418* 
AlkPhos-393* TotBili-1.0 Lipase-27

 
Brief Hospital Course:
She was admitted to the Acute Care service and underwent 
gallbladder ultrasound showing choledocholithiasis with 
dilatation of the common bile duct to 1 cm and
cholelithiasis without evidence of cholecystitis. She was made 
NPO, given IV fluids and antibiotics were given intravenously. 
GI was consulted for ERCP which was done on ___ revealing 
stones and sludge, a sphincterotomy was done as well. She was 
taken to the operating room on ___ for laparoscopic 
cholecystectomy. There were no intraoperative complications. 
Postoperatively she has done well. Her diet was advanced and her 
pain is controlled with oral narcotics.

She is being discharged to home with instructions for follow up 
in ___ weeks in Acute Care Clinic.

 
Medications on Admission:
 Albuterol PRN 
 
Discharge Medications:
1. Advil 200 mg Tablet Sig: Two (2) Tablet PO every ___ hours as 
needed for headache.  
2. Tylenol ___ mg Tablet Sig: Two (2) Tablet PO every ___ hours 
as needed for pain.  
3. oxycodone 5 mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for pain.
Disp:*20 Tablet(s)* Refills:*0*
4. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.  
5. Milk of Magnesia 400 mg/5 mL Suspension Sig: Thirty (30) ML's 
PO twice a day as needed for constipation.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital with gallstones requiring an 
operation to remove your gallbladder. 

During your hospital stay you received antibitocs, narcotic 
medication for pain control and general anesthesia during your 
operation. It is OK for you to continue with your breastfeeding. 
If you are taking pain medication you should pump and discard 
the contents and then pump again and breastfeed your infant. The 
amount of medciation that will be contained in the breast milk 
will be small - you will only be on pain medication for another 
several days.

You are being discharged on medications to treat the pain from 
your operation. These medications will make you drowsy and 
impair your ability to drive a motor vehicle or operate 
machinery safely. You MUST  refrain from such activities while 
taking these medications. 

 

 

Please call your doctor or return to the emergency room if you 
have any of the following:
 

 * You experience new chest pain, pressure, squeezing or 
 tightness.
 
* New or worsening cough or wheezing.
 
* If you are vomiting and cannot keep in fluids or your 
 medications.
 
* You are getting dehydrated due to continued vomiting, 
 diarrhea or other reasons. Signs of dehydration include dry 
 mouth, rapid heartbeat or feeling dizzy or faint when standing.
 
* You see blood or dark/black material when you vomit or have a 
 bowel movement.
 

* You have shaking chills, or a fever greater than 101.5 (F) 
 degrees or 38(C) degrees.
 
* Any serious change in your symptoms, or any new symptoms that 
 concern you. 
 
* Please resume all regular home medications and take any new 
meds 
 as ordered.  

Activity:
No heavy lifting of items ___ pounds for 6 weeks. You may 
resume moderate
exercise at your discretion, no abdominal exercises.

Wound Care:
You may shower, no tub baths or swimming. 

If there is clear drainage from your incisions, cover with 
clean, dry gauze. 
Your steri-strips will fall off on their own. Please remove any 
remaining strips ___ days after surgery.
Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.

 
Followup Instructions:
___